US06071903
Methyl 3-Hydroxy-2-[(4-methoxybenzenesulfonyl)-(5-methyl-2-nitrobenzyl)amino]propionate
A solution of 23.14 g (0.08 mol) of methyl 3-hydroxy-2-(4-methoxybenzenesulfonylamino)propionate in 120 ml of dry N,N-dimethylformamide was added dropwise to a stirred suspension of 3.2 g (0.08 mol) of sodium hydride (57% in oil) in 120 ml of N,N-dimethylformide. When gas evolution ceased, the mixture was chilled in an ice bath and a solution of 16.4 g (0.084 mol) of 5-methyl-2-nitrobenzyl chloride in 100 ml of N N-dimethylformamide was added. To the mixture was added 12.6 g (0.084 mol) of anhydrous sodium iodide and the mixture was chilled in an ice bath and stirred for 20 minutes. The mixture was allowed to warm to room temperature and was stirred overnight. The solvent was removed under vacuum and the residue diluted with 200 ml of H2O and extracted with 500 ml of ethyl acetate. The aqueous layer was extracted with an additional 200 ml of ethyl acetate. The combined extract was washed with H2O, brine and dried with Na2SO4. The solvent was removed to give 41.18 g of crude product. The product was chromatographed on silica gel with hexane-ethyl acetate (1:1) as solvent to give 8.14 g (RF 0.38) of product as a yellow semi-solid. From a small scale run (1 mmol) the product was chromatographed twice on thick silica gel plates with hexane-ethyl acetate (1:1) to give 0.12 g of a yellow semi-solid. Anal. for C19H22N2SO8 : Calc'd: C,52.0; H,5.1; N,6.4: Found: C,51.7; H,5.1; N,6.0.

reactant | methyl 3-hydroxy-2-(4-methoxybenzenesulfonylamino)propionate | 0.08 mol, 23.14 g | OCC(C(=O)OC)NS(=O)(=O)C1=CC=C(C=C1)OC | C11H15NO6S
reactant | sodium hydride | 0.08 mol, 3.2 g | [H-].[Na+]
reactant | 5-methyl-2-nitrobenzyl chloride | 0.084 mol, 16.4 g | CC=1C=CC(=C(CCl)C1)[N+](=O)[O-] | C8H8ClNO2
reactant | sodium iodide | 0.084 mol, 12.6 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | Methyl 3-Hydroxy-2-[(4-methoxybenzenesulfonyl)-(5-methyl-2-nitrobenzyl)amino]propionate | 0.12 g | OCC(C(=O)OC)N(CC1=C(C=CC(=C1)C)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)OC | C19H22N2O8S
